US05530118
4-(Methylthio)benzaldehyde dimethyl acetal
A suspension of K-10 (32 g) in trimethyl orthoformate (115 ml, 1.05 mol) was added to a solution of 4-(methylthio)benzaldehyde (31.0 g, 0.203 mol) in dichloromethane (300 ml) at 0° C. The obtained mixture was stirred at room temperature for 20 minutes and filtered to remove the K-10. The filter cake was washed with dichloromethane. The filtrate and washings were together washed with a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous solution of common salt, dried over magnesium sulfate and concentrated in a vacuum to give the title compound as a pale-yellow oil (39.0 g, 96%).

reactant | trimethyl orthoformate | 1.05 mol, 115 ml | C(OC)(OC)OC | C4H10O3
reactant | 4-(methylthio)benzaldehyde | 0.203 mol, 31.0 g | CSC1=CC=C(C=O)C=C1 | C8H8OS
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 4-(Methylthio)benzaldehyde dimethyl acetal | 39.0 g, 96% | COC(C1=CC=C(C=C1)SC)OC | C10H14O2S
